US05627203
Step A: Methyl 2-(pyrrol-1-yl)benzoate
17.14 mol of 2,5-dimethoxytetrahydrofuran and 19.84 g of 4-chloropyridine hydrochloride in 600 ml of 1,4-dioxane are stirred for 10 minutes at 25° C., and then 17.12 mol of methyl anthranilate are added and the suspension is heated at reflux for 3 hours. After removal of the dioxane under reduced pressure, the residue is taken up in 1 liter of water and extracted with diethyl ether. The ethereal phase is washed with water, decanted off, dried over magnesium sulfate, rendered colourless with animal charcoal, and then concentrated under reduced pressure to yield the title product in the form of an oil.

reactant | 2,5-dimethoxytetrahydrofuran | 17.14 mol | COC1OC(CC1)OC | C6H12O3
reactant | 4-chloropyridine hydrochloride | 19.84 g | Cl.ClC1=CC=NC=C1
reactant | methyl anthranilate | 17.12 mol | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
solvent | 1,4-dioxane | 600 ml | O1CCOCC1 | C4H8O2
product | Methyl 2-(pyrrol-1-yl)benzoate | Yield: 92.7% | N1(C=CC=C1)C1=C(C(=O)OC)C=CC=C1 | C12H11NO2
